US06407111B1
a) N-(2-Benzenesulfonyl-phenyl)-2-(3,5-bis-trifluoromethyl-phenyl)-isobutyramide
A solution of 233 mg (1.0 mmol) 2-aminophenyl phenyl sulfone and 0.25 ml (1.5 mmol) N-ethyldiisopropylamine in 2 ml dichloromethane was cooled in an ice bath and a solution of 350 mg (1.1 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride in 1 ml dichloromethane was added dropwise. The reaction mixture was stirred at room temperature overnight, evaporated and the residue was purified by flash chromatography to give 490 mg (95%) of the title compound as a pale yellow oil.

reactant | 2-aminophenyl phenyl sulfone | 1.0 mmol, 233 mg | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)N | C12H11NO2S
reactant | N-ethyldiisopropylamine | 1.5 mmol, 0.25 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl chloride | 1.1 mmol, 350 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)Cl)(C)C)(F)F | C12H9ClF6O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-(2-Benzenesulfonyl-phenyl)-2-(3,5-bis-trifluoromethyl-phenyl)-isobutyramide | 490 mg, 95% | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)NC(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C24H19F6NO3S
